US04667032
4-Hydroxy-3H-phenothiazin-3-one-5,5-dioxide
To a suspension of 3-hydroxy-10H-phenothiazine-5,5-dioxide (1.75 g, 7 mmoles) in 2% aqueous sulfuric acid (25 ml) there was added, at room temperature, a solution of 80% sodium chlorite (3.17 g, 28 mmoles) in water (25 ml). The mixture was stirred for 15 minutes, then the red-orange precipitate was filtered to afford crude product (1.73 g). Purification was achieved by crystallization from DMF-methanol, m.p. 266° (dec.).

reactant | 3-hydroxy-10H-phenothiazine-5,5-dioxide | 7 mmoles, 1.75 g | OC=1C=CC=2NC3=CC=CC=C3S(C2C1)(=O)=O | C12H9NO3S
reactant | sodium chlorite | 28 mmoles, 3.17 g | Cl(=O)[O-].[Na+]
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 25 ml | O | H2O
product | 4-Hydroxy-3H-phenothiazin-3-one-5,5-dioxide | 1.73 g | OC=1C(C=CC2=NC3=CC=CC=C3S(C12)(=O)=O)=O | C12H7NO4S
